US07589206B2
(a) 1-(7-Chloro-1H-pyrrolo[2,3-c]pyridin-4-yl)-1-morpholin-4-yl-methanone
Prepared from 7-chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid in a similar manner to Example 19 (e) using morpholine instead of tetrahydro-pyran-4-ylmethylamine to give the title compound (32 mg).

reactant | 7-chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid | ClC1=NC=C(C2=C1NC=C2)C(=O)O | C8H5ClN2O2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1-(7-Chloro-1H-pyrrolo[2,3-c]pyridin-4-yl)-1-morpholin-4-yl-methanone | 32 mg | ClC=1N=CC(=C2C1NC=C2)C(=O)N2CCOCC2 | C12H12ClN3O2
